US04340599
Dibenzyloxyphosphinyl-hydroxy-acetic acid benzyl ester
1.5 ml of a saturated methanolic sodium hydroxide solution are allowed to run rapidly into 45.5 g of dibenzyl phosphite and 28.5 g of glyoxylic acid benzyl ester. The reaction which proceeded is exothermic. The mixture is subsequently stirred at 20° C. for some hours. It is chromatographed on silica gel using methylene chloride containing 5% of methanol. The fraction with a Rf of 0.58 is evaporated, 20 ml of diethyl ether are added to the residue (55.2 g) and 45.0 g of dibenzyloxyphosphinylhydroxy-acetic acid benzyl ester are isolated. Melting point 67°-68° C. Yield: 61%.

reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | dibenzyl phosphite | 45.5 g | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | glyoxylic acid benzyl ester | 28.5 g | C(C1=CC=CC=C1)OC(C=O)=O | C9H8O3
product | Dibenzyloxyphosphinyl-hydroxy-acetic acid benzyl ester | Yield: 61% | C(C1=CC=CC=C1)OC(C(O)P(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C23H23O6P
